Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OTOLARYNGOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
left submandibular gland mass
 
Major Surgical or Invasive Procedure:
left submandibular gland mass exicision
 
Physical Exam:
General: No apparent distress.
Surgical Site: CN 5, 7, 11, 12 intact bilaterally. Neck flat,
soft, incision site clean/intact. 
Cardiac: Regular Rate and Rhythm
Respiratory: Unlabored breathing
Neuro: alert and oriented, communicative
 
Brief Hospital Course:
The patient was admitted to the Otolaryngology-Head and Neck 
Surgery Service on ___ after undergoing left 
submandibular gland mass excision.

Please see the separately dictated operative note for details of 
procedure. The patient was extubated and transferred to the 
hospital floor for further post-operative care. The 
post-operative course was uneventful and the patient was 
discharged to home. 

Hospital Course by Systems:

Neuro: Pain was well controlled, initially with IV regimen which 
was transitioned to oral regimen once tolerating oral intake. 
Cardiovascular: Remained hemodynamically stable.  
Pulmonary: Oxygen was weaned and the patient was ambulating 
independently without supplemental oxygen prior to discharge.
HEENT: Drains placed intraoperatively were monitored closely 
until output was minimal and were removed. Surgical site was 
closely monitored.
GI: Post-operative anti-emetics were given PRN.  Diet was 
advanced as tolerated. Bowel regimen was given prn.
GU: Patient was able to void independently.
Heme: Received Lovenox subcutaneously and pneumatic compression 
boots for DVT prophylaxis.
Endocrine: Monitored without any remarkable issues.
ID: Received perioperative antibiotics 

At time of discharge, the patient was in stable condition, 
ambulating and voiding independently, and with adequate pain 
control.  The patient was given instructions to ___ in 
clinic with:

Dr. ___

as scheduled. Pt was given detailed discharge instructions 
outlining wound care, activity, diet, ___ and the 
appropriate medication scripts.
 
Discharge Medications:
1.  Bacitracin Ointment 1 Appl TP BID  
2.  Ezetimibe 10 mg PO DAILY  
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: admission order 
4.  Rosuvastatin Calcium 40 mg PO QPM  
5.  Sertraline 50 mg PO DAILY  
6.  Thyroid 60 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
left submandibular gland mass
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
WOUND CARE:
- Any non-absorbable sutures or staples will be removed at your 
___ visit.
- You may remove or replace the dressing on your wound 2 days 
after surgery.
- Please leave the Steri-strips in place on your incision and 
allow them to fall off on their own.  If they have not fallen 
off in ___ days, you may remove them yourself.
- You may shower 48 hours after surgery but please do not swim 
or soak in a tub for at least 2 weeks.  After you are done 
showering, just pat your incision dry.  If it is draining clear 
fluid, you can cover it with a dry dressing (such as gauze). Do 
NOT scrub with soap or washcloth for the first 10 days.
- Mild swelling at the incision site will go away in ___ weeks. 
The pink line will slowly fade to white during the next ___ 
months.
- Use a sunscreen (SPF#30 or higher) or wear a scarf for 
protection if in the sun for the first 6 months to a year as the 
sun can darken your scar.
- You may begin to use a moisturizing cream (no Vitamin E, 
Myoderma, or other “scar” creams) along the incision after 2 
weeks.

ACTIVITY:
- Most patients are able to return to a full-time work schedule 
in ___ weeks; however this may vary according to your job. It 
may take longer to return to heavy physical or other demanding 
work, or shorter if you are feeling well.
- Do not lift more than 10 pounds for 6 to 8 weeks or until you 
ask your surgeon at your ___ appointment. Ten pounds is as 
heavy as a gallon of milk.
- Walking is encouraged but do not do any strenuous exercise 
like aerobics, running or weight lifting until you ask your 
surgeon at your ___ appointment.

MEDICATIONS:
- Resume your pre-hospital medications unless specified.
- You should ___ with your primary care physician 
regarding new prescriptions and refills.
- We will supply you with a prescription for a mild narcotic 
pain medication. You are not required to take it, and you can 
also fill a partial prescription if you would prefer. If you do 
take it, please do not drive or drink alcohol as these in 
combination may make you drowsy. Most patients do not need 
strong pain medicine by the time you leave the hospital. You can 
take Tylenol (acetaminophen) or ibuprofen (e.g. Advil) as 
needed.
- If you are taking supplemental calcium or narcotics, you may 
also want to take a stool softener, such as over-the-counter 
Colace or Senna, to avoid constipation. Stay hydrated by 
drinking some extra water.
-  Do not drive or drink alcohol while taking narcotic pain 
medication, which may make you feel drowsy.

DIET:
- Resume a regular diet.
-  Be sure to drink plenty of liquids (at least 48 ounces per 
day); Gatorade, Smart Water, or other sports drinks are good 
options.
- You may have temporary throat discomfort or difficulty 
swallowing due to the swallowing tube during surgery. These 
symptoms will gradually improve over the course of several 
weeks.

___:
- For any non-urgent questions, call your doctor’s office or the 
nursing unit where you were a patient.
- Call your doctor's office or go to the Emergency Room if you 
have any of the following symptoms: fever greater than 101.5 F; 
chest pain; shortness of breath; swelling or pain in your thigh 
or calf; severe pain that is not relieved by pain medicine and 
rest; swelling, redness, or bruising around your incision that 
is getting worse; drainage or bleeding from your incision that 
is increasing; or any other symptoms that worry you.
- Please call ___ or go to the Emergency Room if you have any 
other urgent concerns.
- Please call your doctor to schedule a ___ appointment if 
you do not have one yet for approximately ___ weeks after 
discharge
 
Followup Instructions:
___